US07105563B2
To a suspension of 5-nitro-3-[(4-(dimethylethoxycarbonylaminomethyl)-pyrrol-2-yl)methylene]indolin-2-one (0.8 g, 2 mmol) in ethyl acetate/pyridine (60 mL/9 mL) was added tin (II) chloride dihydrate and the reaction mixture was refluxed for 1.5 hours. The reaction mixture was cooled to ambient temperature, filtered through celite and the filtrate was partitioned in water and ethyl acetate. The organic layer was washed with water and filtered again through celite. The organic layer was then washed with brine, and concentrated to afford 5-amino-3-[(4-(dimethylethoxycarbonylaminomethyl)pyrrol-2-yl)methylene]indolin-2-one as a red colored solid (0.68 g); 1H NMR (400 MHz, DMSO) δ 1.38 (s, 9H), 2.62 (s, 3H), 4.0 (d, 2H), 4.64 (s, 2H), 6.42 (d, 1H), 6.58 (d, 1H), 6.82 (s, 1H), 7.0 (s, 1H), 8.08 (m, 2H), 10.52 (s, 1H) ppm. Hydrolysis under standard conditions yielded 5-amino-3-[(4-(aminomethyl)pyrrol-2-yl)methylene]indolin-2-one; 1H NMR (400 MHz, DMSO-d6) δ 2.66 (s, 3H), 4.00 (m, 2H), 6.50. (dd, 1H), 6.64 (d, 1H), 7.08 (s, 1H), 7.26 (s, 1H), 7.38 (s, 1H), 8.06 (brs, 1H), 10.18 (s, 1H) ppm.

reactant | 5-nitro-3-[(4-(dimethylethoxycarbonylaminomethyl)-pyrrol-2-yl)methylene]indolin-2-one | 2 mmol, 0.8 g | [N+](=O)([O-])C=1C=C2C(C(NC2=CC1)=O)=CC=1NC=C(C1)C(NC(=O)OCC)(C)C | C19H20N4O5
reactant | tin (II) chloride dihydrate | O.O.[Sn](Cl)Cl
solvent | ethyl acetate pyridine | 60 mL | C(C)(=O)OCC.N1=CC=CC=C1
product | 5-amino-3-[(4-(dimethylethoxycarbonylaminomethyl)pyrrol-2-yl)methylene]indolin-2-one | 0.68 g | NC=1C=C2C(C(NC2=CC1)=O)=CC=1NC=C(C1)C(NC(=O)OCC)(C)C | C19H22N4O3
